US07507736B2
4-[6-Chloro-5-(1-isopropyl-piperidin-4-yloxy)-1H-indole-2-carbonyl]-piperazine-1-carboxylic acid tert-butyl ester
A mixture of 6-chloro-5-(1-isopropyl-piperidin-4-yloxy)-1H-indole-2-carboxylic acid hydrochloride salt with 1 eq. lithium chloride (760 mg, 1.0 eq.), tert-butyl-1-piperazinecarboxylate (467 mg, 1.25 eq.), O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (838 mg, 1.25 eq.) and N,N-diisopropylethylamine (2.43 mL, 7 eq.) in N,N-dimethylformamide (9 mL) was stirred at room temperature for 20 h. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous sodium hydrogencarbonate solution. The organic layer was separated and washed with water and brine, and dried over sodium sulfate, filtered and the solvents were removed in vacuo. The residue was purified by flash chromatography on silica gel with a 19:1:0 to 90:9:1 gradient of dichloromethane/methanol/ammonia as eluant, to afford 577 mg (57%) of the title compound as a light-yellow solid.

reactant | 6-chloro-5-(1-isopropyl-piperidin-4-yloxy)-1H-indole-2-carboxylic acid hydrochloride salt | Cl.ClC1=C(C=C2C=C(NC2=C1)C(=O)O)OC1CCN(CC1)C(C)C
reactant | lithium chloride | 760 mg, 1 eq. | [Cl-].[Li+]
reactant | tert-butyl-1-piperazinecarboxylate | 467 mg, 1.25 eq. | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 838 mg, 1.25 eq. | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 2.43 mL, 7 eq. | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 9 mL | CN(C=O)C | C3H7NO
product | 4-[6-Chloro-5-(1-isopropyl-piperidin-4-yloxy)-1H-indole-2-carbonyl]-piperazine-1-carboxylic acid tert-butyl ester | 577 mg, 57% | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C=1NC2=CC(=C(C=C2C1)OC1CCN(CC1)C(C)C)Cl | C26H37ClN4O4
